US08124629B2
A 1.0 M solution of diisobutylaluminum hydride in toluene (43 mL, 0.043 mol) was added slowly drop-wise to a −78° C. solution of 2-bromo-4-chloro-benzoic acid methyl ester (10.57 g, 0.042 mol) in toluene (50 mL) and hexanes (425 mL). The reaction mixture was stirred at −78° C. for 1.5 hours. After this time, a white solid had precipitated out of solution. The reaction mixture was quenched at −78° C. with ethyl acetate (100 mL). Saturated aqueous sodium potassium tartrate was added, and the reaction mixture was warmed to room temperature. The organic phase was separated, dried over Na2SO4, filtered, and concentrated to a clear oil. TLC (30% ethyl acetate/hexanes) and 1H NMR revealed a mixture with unreacted 2-bromo-4-chloro-benzoic acid methyl ester as the major component. The crude material was dissolved in toluene (300 mL), and the resulting solution was cooled to −78° C. A 1.0 M solution of diisobutylaluminum hydride in toluene (55 mL, 0.055 mol) was added slowly drop-wise to the reaction mixture. The reaction mixture was warmed to −45° C. and stirred at this temperature for 35 minutes. At this time, TLC (10% ethyl acetate/hexanes) indicated nearly complete consumption of the starting material. The reaction mixture was quenched at −45° C. with ethyl acetate. Saturated aqueous sodium potassium tartrate was added, and the reaction mixture was warmed to room temperature and stirred at room temperature for 1 hour. The organic phase was separated, dried over Na2SO4, and concentrated to a yellow oil. A solution of this crude product and dichloromethane (200 mL) was evaporated onto silica gel, and the dry silica gel-supported product was loaded onto a 120 g silica gel column. Flash chromatography was carried out using an ISCO purification system (95:5 hexanes-ethyl acetate ramped to 4:1 hexanes-ethyl acetate). (2-Bromo-4-chloro-phenyl)-methanol was isolated as 5.57 g (60% yield) of a white solid.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-bromo-4-chloro-benzoic acid methyl ester | 0.042 mol, 10.57 g | COC(C1=C(C=C(C=C1)Cl)Br)=O | C8H6BrClO2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.055 mol, 55 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.043 mol, 43 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Bromo-4-chloro-phenyl)-methanol | BrC1=C(C=CC(=C1)Cl)CO | C7H6BrClO
